US05550131
(S) -3-Tert-Butoxymethyl-2-Oxopiperazine-1-Acetic Acid
In substantially the same manner as in Reference Example 2, the title compound was synthesized from N(2,2-dimethoxyethyl) glycine tert-butyl ester and N-benzyloxycarbonyl-O-tert-butyl-L-serine. M.p. 178°-180° C.

reactant | N(2,2-dimethoxyethyl) glycine tert-butyl ester | C(C)(C)(C)OC(CNCC(OC)OC)=O | C10H21NO4
reactant | N-benzyloxycarbonyl-O-tert-butyl-L-serine | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC(C)(C)C)C(=O)O | C15H21NO5
product | (S) -3-Tert-Butoxymethyl-2-Oxopiperazine-1-Acetic Acid | C(C)(C)(C)OC[C@H]1C(N(CCN1)CC(=O)O)=O | C11H20N2O4
